US09302991B2
<Step-4>:1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone
A mixture of 1-(2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone (0.23 g, 0.86 mmol, Step-3) and triethylamine (0.17 mL, 1.20 mmol) in ethanol (9 mL) is stirred at room temperature for 1 hour. Then 10% palladium on carbon (0.03 g, 0.28 mmol) is added to the mixture. The mixture is stirred at room temperature under a balloon of hydrogen gas for 5 hours. After filtration through a pad of celite, the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (5:1) to give 0.15 g (76% yield) of the title compound as colorless oil.

reactant | 1-(2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 0.86 mmol, 0.23 g | ClC1=NC(=C(C=C1C(C)=O)F)OCC(F)(F)F | C9H6ClF4NO2
reactant | triethylamine | 1.20 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.28 mmol, 0.03 g | [Pd] | Pd
product | 1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 0.15 g, 76% yield | FC=1C=C(C=NC1OCC(F)(F)F)C(C)=O | C9H7F4NO2
